US08735384B2
Synthesis of (R)-(2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)phenyl)(3-fluoropyrrolidin-1-yl)methanone
A solution of 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoic acid hydrochloride (168 mg, 0.357 mmol) and HATU (204 mg, 0.536 mmol) in DMF (5 mL) was stirred for 10 min at RT. (R)-(−)-3-fluoropyrrolidine hydrochloride (224 mg, 1.787 mmol) and 1,1′-dimethyltriethylamine (0.622 mL, 3.57 mmol) were added and the reaction mixture was allowed to stir overnight at RT. The reaction mixture was partitioned between water and ethyl acetate. The organic phase was separated, dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by preparative HPLC (10-100% water with 0.1% TFA/CH3CN, 11 min). The obtained product was eluted on an SCX cartridge with MeOH followed by 2M NH3/MeOH. The basic fraction was concentrated to afford the titled compound as a white solid. MS (ESI, pos. ion) m/z: 505 (M+1).

reactant | 2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)benzoic acid hydrochloride | 0.357 mmol, 168 mg | Cl.NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C(=O)O)C=CC=C1CCC(C)(C)C
reactant | HATU | 0.536 mmol, 204 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (R)-(−)-3-fluoropyrrolidine hydrochloride | 1.787 mmol, 224 mg | Cl.F[C@H]1CNCC1
reactant | 1,1′-dimethyltriethylamine | 3.57 mmol, 0.622 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | (R)-(2-(2-amino-3-morpholinoquinolin-6-yl)-3-(3,3-dimethylbutyl)phenyl)(3-fluoropyrrolidin-1-yl)methanone | NC1=NC2=CC=C(C=C2C=C1N1CCOCC1)C1=C(C=CC=C1CCC(C)(C)C)C(=O)N1C[C@@H](CC1)F | C30H37FN4O2
